US07129239B2
Preparation of 9-(4-Chlorophenyl)-8-(2,4-dichlorophenyl)-6-isopropoxy-9H-purine (1A-1)
Sodium (7 mg, 0.3 mmol) was dissolved in isopropanol (1 ml) and to it was added 6-chloro-9-(4-chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purine I-(1A-1)d (30 mg, 0.07 mmol). After stirring at room temperature overnight, the reaction mixture was evaporated to dryness and extracted into ethyl acetate from saturated aqueous NaHCO3 solution. The organic layers were combined, dried (Na2SO4), filtered, and concentrated to dryness. The crude residue was purified on a TLC preparative plate using 4% methanol/methylene chloride as the solvent to yield title compound 1A-1. A solution of the material in methylene chloride was treated with excess 1 N HCl in diethyl ether, stirred, evaporated to dryness, and then triturated in diethyl ether to afford the hydrochloride salt of compound 1A-1 (8 mg, 26%): +ESI MS (M+1) 433.4; 1H NMR (400 MHz, CD3OD) δ 8.50 (s, 1H), 7.64 (d, J=8.3 Hz, 1H), 7.55 (d, J=1.7 Hz, 1H), 7.49–7.45 (3H), 7.34 (d, J=9.1 Hz, 2H), 5.73 (septuplet, J=6.2 Hz, 1H), 1.48 (d, J=6.2 Hz, 6H).

reactant | Sodium | 0.3 mmol, 7 mg | [Na] | Na
reactant | 6-chloro-9-(4-chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purine | ClC1=C2N=C(N(C2=NC=N1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C17H8Cl4N4
reactant | isopropanol | 1 ml | C(C)(C)O | C3H8O
product | 9-(4-Chlorophenyl)-8-(2,4-dichlorophenyl)-6-isopropoxy-9H-purine | ClC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1C1=C(C=C(C=C1)Cl)Cl)OC(C)C | C20H15Cl3N4O
